US07666888B2
4-[(2-Benzylpyrrolidin-1-yl)carbonyl]-5-(2-chlorophenyl)isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 2-benzylpyrrolidine (9.7 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (9.4 mg). Calcd for C21H19ClN2O2: 366.1135, found 366.1136.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 2-benzylpyrrolidine | 0.060 mmol, 9.7 mg | C(C1=CC=CC=C1)C1NCCC1 | C11H15N
product | 4-[(2-Benzylpyrrolidin-1-yl)carbonyl]-5-(2-chlorophenyl)isoxazole | C(C1=CC=CC=C1)C1N(CCC1)C(=O)C=1C=NOC1C1=C(C=CC=C1)Cl | C21H19ClN2O2
